US07851482B2
Formation of Oxymorphone Base
A hydrogenation vessel is charged with kg litre water and 0.73 kg acetic acid before adding 1 kg of 14-hydroxymorphinone prepared as in Example 1.1A and the mixture stirred until clear. 40 g of wet 10% Pd on carbon catalyst is added under a stream of nitrogen, and hydrogen supplied at 35-40 psi (2.41-2.76 bar). The temperature is maintained at 30±5° C. until hydrogen uptake stops, then the vessel is maintained at 35-40 psi (2.41-2.76 bar) and 30±5° C. for 3-4 hours. The reaction vessel is cooled to less than 25° C. and a sample subjected to HPLC to check for 14-hydroxymorphinone. If the 14-hydroxymorphinone area detected by HPLC is >0.1%, the hydrogenation is repeated.

reactant | water | O | H2O
reactant | 14-hydroxymorphinone | 1 kg | CN1CC[C@]23[C@@H]4C(=O)C=C[C@]2([C@@H]1CC5=C3C(=C(C=C5)O)O4)O | C17H17NO4
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | [Pd] | Pd
solvent | acetic acid | 0.73 kg | C(C)(=O)O | C2H4O2
product | Oxymorphone | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C17H19NO4
